US06727256B1
4-Fluoro-5-iodo-isatoic Anhydride
Anhydrous dioxane (0.5 liters), 2-amino-4-fluoro-5-iodo-benzoic acid (46 grams, 164 mmoles), and trichloromethylchloroformate (97.4 grams, 492 mmoles) were added to a one liter one neck flask equipped with a magnetic stir bar and reflux condenser. The solution was placed under anhydrous nitrogen, stirred and heated to reflux for 16 hours. The reaction mixture was allowed to cool and was poured into one liter of hexanes. The solid was collected by suction filtration, washed with an additional 0.5 liters of hexanes, and dried under vacuum at room temperature to yield 45.5 grams (90%) of the title compound. 1H NMR (400 MHz, DMSO-d6) δ: 11.86(s, 1H), 8.24(d, 1H), 6.84(d, 1H). ESI-MS m/z 308 (M+1).

reactant | 2-amino-4-fluoro-5-iodo-benzoic acid | 164 mmoles, 46 grams | NC1=C(C(=O)O)C=C(C(=C1)F)I | C7H5FINO2
reactant | trichloromethylchloroformate | 492 mmoles, 97.4 grams | ClC(Cl)(Cl)OC(=O)Cl | C2Cl4O2
solvent | dioxane | 0.5 liters | O1CCOCC1 | C4H8O2
product | 4-Fluoro-5-iodo-isatoic Anhydride | 45.5 grams, 90% | FC=1C=C2C(C(=O)OC(N2)=O)=CC1I | C8H3FINO3
